US06239131B1
Preparation of 5-[3-[1-(2-toluoylmethyl)-2-oxo-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]-2-methylbenzoic acid
1-[1-(2-toluoylmethyl)-2-oxo-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-methoxycarbonyl-4-methylphenyl)urea (0.70 g) was dissolved in a mixed solvent of tetrahydrofuran (10 ml) and methanol (10 ml), aqueous lithium hydroxide hydrate (0.23 g) solution (10 ml) was added, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was acidified with 1N HCl and extracted with chloroform. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography(chloroform:methanol=30:1), to thereby obtain 224 mg of the title compound as a white crystal.

reactant | 1-[1-(2-toluoylmethyl)-2-oxo-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-methoxycarbonyl-4-methylphenyl)urea | 0.70 g | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C2=CC=CS2)=O)NC(=O)NC2=CC(=C(C=C2)C)C(=O)OC)=O)C | C34H32N4O6S
reactant | lithium hydroxide hydrate | 0.23 g | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | 5-[3-[1-(2-toluoylmethyl)-2-oxo-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]-2-methylbenzoic acid | 224 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C2=CC=CS2)=O)NC(NC=2C=CC(=C(C(=O)O)C2)C)=O)=O)C | C33H30N4O6S
